US06784323B2
(R)-3-(1-Methyl-1H-indol-3-yl)-butanal (Table 1, entry 6; Table 2, entry 1):
Prepared according to the general procedure from (E)-crotonaldehyde (125 μL, 1.50 mmol), 1-methyl-1H-indole (64 μL, 0.50 mmol), TFA (7.7 μL, 0.10 mmol) and (2S,5S)-5-benzyl-2-tert-butyl-3-methyl-imidazolidin-4-one (24.6 mg, 0.100 mmol) in CH2Cl2 (0.85 mL) and isopropanol (0.15 mL) at −83° C. for 19 h to provide, after silica gel chromatography (benzene), the title compound as a colorless oil (83 mg, 82% yield, 92% ee). IR (film) 3054, 2960, 2824, 2722, 1720, 1616, 1550, 1474, 1374, 1329, 1241, 740 cm−1; 1H NMR (300 MHz, CDCl3) δ 9.75 (dd, J=2.1, 2.1 Hz, 1H, CHO), 7.63 (d, J=7.8 Hz, 1H, ArH), 7.32-7.21 (m, 2H, ArH), 7.12 (ddd, J=1.5, 7.4, 8.1 Hz, 1H, ArH), 6.84 (s, 1H, NCH), 3.75 (s, 3H, NCH3), 3.68 (dt, J=6.9, 13.8 Hz, 1H, ArCH), 2.88 (ddd, J=2.7, 6.9, 16.2 Hz, 1H, CH2CO); 2.71 (ddd, J=2.7, 6.9, 16.2 Hz, 1H, CH2CO); 1.44 (d, J=7.2 Hz, 3H, CHCH3); 13C NMR (75 MHz, CDCl3) δ 202.8, 137.2, 126.6 125.2, 121.8, 119.1, 118.9, 118.8, 109.5, 51.2, 32.8, 26.0, 21.9; HRMS (CI) exact mass calcd for (C13H15NO) requires m/z 201.1154, found m/z 201.1152. [α]D−−4.2 (c=1.0, CHCl3). The enantiomeric ratio was determined by HPLC analysis of the alcohol, obtained by NaBH4 reduction of the aldehyde, using a Chiracel AD and AD guard column (2:98 ethanol/hexanes, 1 mL/min); S isomer tr=25.2 min and R isomer tr=27.8 min.

reactant | (E)-crotonaldehyde | 1.50 mmol, 125 μL | C(\C=C\C)=O | C4H6O
reactant | 1-methyl-1H-indole | 0.50 mmol, 64 μL | CN1C=CC2=CC=CC=C12 | C9H9N
reactant | TFA | 0.10 mmol, 7.7 μL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | (2S,5S)-5-benzyl-2-tert-butyl-3-methyl-imidazolidin-4-one | 0.100 mmol, 24.6 mg | C(C1=CC=CC=C1)[C@H]1C(N([C@H](N1)C(C)(C)C)C)=O | C15H22N2O
solvent | CH2Cl2 | 0.85 mL | C(Cl)Cl | CH2Cl2
solvent | isopropanol | 0.15 mL | C(C)(C)O | C3H8O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | (R)-3-(1-Methyl-1H-indol-3-yl)-butanal | 83 mg, 82% yield | CN1C=C(C2=CC=CC=C12)[C@@H](CC=O)C | C13H15NO
